US06057357
1-Ethenyl-3-(phenylmethoxy)benzene
To a solution of methyltriphenylphosphonium bromide (51 g, 143 mmol) in tetrahydrofuran (500 mL) under argon at -20° C. was added butyllithium (56 mL, 140 mmol) over 20 minutes. The reaction was stirred for 10 minutes, then 3-benzyloxybenzaldehyde (29 g, 137 mmol) in tetrahydrofuran (60 mL) was added over 15 minutes. The reaction was stirred for 6.5 hours and left to stand overnight. The solvent was decanted off and the residue dissolved in dichloromethane (100 mL) and extracted with a heptane/diethyl ether mixture (9:1) until all the product was removed. The combined organics were filtered through silica and the solvent removed in vacuo to give the product as a clear oil, 122 mmol, 89%.

reactant | butyllithium | 140 mmol, 56 mL | C(CCC)[Li]
reactant | 3-benzyloxybenzaldehyde | 137 mmol, 29 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
catalyst | methyltriphenylphosphonium bromide | 143 mmol, 51 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 1-Ethenyl-3-(phenylmethoxy)benzene | C(=C)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C15H14O
